* C:\Users\nicla\Documents\GitHub\diy_hifi_amplifier\power_amplifier\50w_class_ab_blameless.asc
Q1 N019 N014 N012 0 BC557C
Q2 N017 N013 N011 0 BC557C
R1 N006 N011 100
R2 N006 N012 100
Q3 N019 N019 N023 0 BC547C
Q4 N017 N019 N022 0 BC547C
R3 N023 -37 68
R4 N022 -37 68
Q5 N006 N002 N001 0 BC557C
R5 N003 N002 2.2k
R6 N001 +37 150
D1 P001 N003 1N4148
D2 +37 P001 1N4148
C1 +37 N005 47µ
R7 N003 N005 10k
R8 N005 0 10k
Q6 N004 N003 P002 0 BC557C
R9 +37 P002 100
R10 N004 N007 16
R11 N004 N010 1k
R12 N010 N016 280
C2 N004 N016 47µ
Q7 N007 N010 N016 0 BC547C
Q9 N016 N021 -37 0 BC547C
C3 N016 N017 100p
Q8 0 N017 N021 0 BC547C
R13 N021 -37 1k
V1 +37 0 37
V2 0 -37 37
C4 +37 0 100n
C5 -37 0 100n
C6 -37 0 220µ
C7 +37 0 220µ
Q10 +37 N008 N009 0 NPN
Q11 +37 N009 P003 0 NPN
Q12 -37 N018 N015 0 PNP
Q13 -37 N015 P004 0 PNP
R14 N008 N007 100
R15 N018 N016 100
R16 N009 N015 220
C8 N009 N015 1µ
R17 NFB P004 0.4
R18 P003 NFB 0.4
R19 NFB N014 10k
R20 N020 N014 500
C9 N020 0 220µ
D3 0 N020 1N4148
R21 NFB P005 10
C10 P005 0 100n
L1 out NFB 5µ
R22 out NFB 10
R23 N013 0 10k
C11 N013 in 10µ
V3 in 0 SINE(0 1.4142 1k)
R24 out 0 8
.model D D
.lib C:\Users\nicla\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\nicla\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran {t}
.four {f} 10 8 V(out)
.param f=1k n=16 t=n/f
.backanno
.end
